### ISSUE TITLE
Native decide false with negative half word ints on mac

### ISSUE THREAD

**Issue by alexjbest** [leanprover/lean4#1825]
This was #1821

Occurs on an Intel 64 bit Mac with latest nightlies

I expect that

```lean
theorem boom : -2147483648 + 2147483648 = 0 := by rfl
theorem boom' : -2147483648 + 2147483648 = -18446744069414584320 := by native_decide
theorem boom'' : False := by
  have := boom'
  simp [boom] at this
```

Should fail at the native_decide, but it succeeds

**Comment by leodemoura** [comment]
I cannot reproduce it on Intel 64-bit Linux using master. 
I can reproduce it on Intel 64-bit Mac with the 2022-11-12 nightly and a binary built locally.
@alexjbest mentioned that the bug does not happen using a Lean built locally on his Mac.
I used the following clang
```bash
Apple clang version 12.0.0 (clang-1200.0.32.28)
Target: x86_64-apple-darwin22.1.0
```
@alexjbest Could you please post here the compiler you have used?

I noticed that my local build contained the following waring message.

> ld: warning: dylib (/usr/local/lib/libgmp.dylib) was built for newer macOS version (12.0) than being linked (11.1)

Then, I built again with `USE_GMP=OFF` for stage0 and stage1. With this configuration, the bug did **not** happen.

@alexjbest I am assuming you built using the default configuration. Did you get a similar warning message?

**Comment by alexjbest** [comment]
I have:
```
-- The CXX compiler identification is AppleClang 13.1.6.13160021
```
```
-- Found GMP: /usr/local/include (Required is at least version "5.0.5")
```
I didn't see the warning you mentioned, and I have gmp 6.2.1_1 installed via homebrew.

**Comment by alexjbest** [comment]
One more datapoint: I just checked that a very old version of lean (leanprover/lean4:nightly-2022-01-12) downloaded from the nightly also `eval`s
```
#eval -2147483648 + 2147483648
```
to -18446744069414584320. So it seems it wasn't a recent change that caused this
